US04218404
1.9 g (5.5 mmoles) of N-carbobenzoxy-β-alanine-p-nitrophenyl ester (Biochemistry 4, 1884 1965) are reacted with 0.63 g (5 mmoles) of taurine as described in Example 1 to obtain 1.35 g (82%) of N-carbobenzoxy-β-alanyl-taurine.

reactant | N-carbobenzoxy-β-alanine-p-nitrophenyl ester | 5.5 mmoles, 1.9 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(CCNC(=O)OCC1=CC=CC=C1)=O | C17H16N2O6
reactant | taurine | 5 mmoles, 0.63 g | NCCS(=O)(=O)O | C2H7NO3S
product | N-carbobenzoxy-β-alanyl-taurine | 1.35 g, 82% | C(=O)(OCC1=CC=CC=C1)NCCC(=O)NCCS(=O)(=O)O | C13H18N2O6S
